US05948786
Magnesium ethyl malonate was prepared as follows: To a stirred THF solution (1 L) of monoethyl malonate (183.18 g, 1.39 mol) was added magnesium ethoxide (79.54 g, 0.70 mol) in several portions. After about 4 hours, the solvent was removed under reduced pressure and the residue was reevaporated with toluene to give magnesium ethyl malonate (190.82 g).

reactant | monoethyl malonate | 1.39 mol, 183.18 g | C(CC(=O)[O-])(=O)OCC
reactant | magnesium ethoxide | 0.70 mol, 79.54 g | [O-]CC.[Mg+2].[O-]CC
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | magnesium ethyl malonate | 190.82 g | C(CC(=O)[O-])(=O)OCC.[Mg+2].C(C)OC(CC(=O)[O-])=O | InChI=1S/2C5H8O4.Mg/c2*1-2-9-5(8)3-4(6)7;/h2*2-3H2,1H3,(H,6,7);/q;;+2/p-2
